US07335658B2
6-[4-(3-Benzyl-5-trifluoromethyl-3H-[1,2,3]triazole-4-carbonyl)piperazin-1-yl]pyridazine-3-carboxylic acid (3-methylbutyl)amide (0.4 g, 0.75 mmol) was dissolved in 10 mL of MeOH with 3 drops of acetic acid and 0.2 g of 10% Pd/C was added. The reaction mixture was kept under normal pressure of H2 at ambient temperature overnight. After filtration the reaction mixture was evaporated under reduced pressure and the residue was recrystallized from 3 mL of EtOH to give 120 mg (36% yield) of 6-[4-(5-trifluoromethyl-3H-[1,2,3]triazole-4-carbonyl)-piperazin-1-yl]pyridazine-3-carboxylic acid (3-methylbutyl)amide as a white powder. 1H NMR (500 MHz, Acetone-d6) δ 8.18, 7.91, 7.32, 3.92-3.72, 3.45, 1.67, 1.52, 0.92.

reactant | 6-[4-(3-Benzyl-5-trifluoromethyl-3H-[1,2,3]triazole-4-carbonyl)piperazin-1-yl]pyridazine-3-carboxylic acid (3-methylbutyl)amide | 0.75 mmol, 0.4 g | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(=O)C=1N(N=NC1C(F)(F)F)CC1=CC=CC=C1)C | C25H29F3N8O2
solvent | MeOH | 10 mL | CO | CH4O
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | 6-[4-(5-trifluoromethyl-3H-[1,2,3]triazole-4-carbonyl)-piperazin-1-yl]pyridazine-3-carboxylic acid (3-methylbutyl)amide | 120 mg, 36% yield | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(=O)C=1NN=NC1C(F)(F)F)C | C18H23F3N8O2
